US07371747B2
trans-2-{[(Cyanomethyl)amino]carbonyl}cyclopentanecarboxylic acid (860 mg, 4.38 mmol) was placed in a 50 mL round bottom flask. The flask was fitted with a rubber septum and then flushed with nitrogen. Tetrahydrofuran (9 mL) was added and the reaction mixture was cooled to −78° C. 4-Methylmorpholine (0.53 mL, 4.8 mmol) was added, followed by addition of isobutyl chloroformate (0.61 mL, 4.7 mmol). The reaction mixture was warmed to ambient temperature over 1.5 h and then recooled to −78° C. Sodium borohydride (0.28 g, 7.4 mmol) was added and then methanol (3.0 mL). The reaction mixture was stirred at −78° C. for 2 h and then quenched with saturated aqueous ammonium chloride (10 mL). The reaction mixture was warmed to ambient temperature and then poured into 100 mL saturated aqueous sodium chloride solution. The product was extracted into ethyl acetate. The combined organics were dried over anhydrous sodium sulfate and then concentrated on a rotary evaporator. Toluene (5 mL) was added to the residue and the reaction mixture was stirred for 30 min. The solution was removed by decantation and the residue was dried under high vacuum to give trans-N-(cyanomethyl)-2-(hydroxymethyl)-cyclopentanecarboxamide as a colorless solid.

reactant | trans-2-{[(Cyanomethyl)amino]carbonyl}cyclopentanecarboxylic acid | 4.38 mmol, 860 mg | C(#N)CNC(=O)[C@H]1[C@@H](CCC1)C(=O)O | C9H12N2O3
reactant | 4-Methylmorpholine | 4.8 mmol, 0.53 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 4.7 mmol, 0.61 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | Sodium borohydride | 7.4 mmol, 0.28 g | [BH4-].[Na+]
solvent | methanol | 3.0 mL | CO | CH4O
product | trans-N-(cyanomethyl)-2-(hydroxymethyl)-cyclopentanecarboxamide | C(#N)CNC(=O)[C@H]1[C@@H](CCC1)CO | C9H14N2O2
